US06353006B1
2Methyl-4-nitrophenyl isothiocyanate was reacted with 2-ethyl-1-butylamine followed by 2chloro-3-methylbutanoic acid according to Method C8a to afford 2-(2-methyl-4-nitrophenylimino)-3-(2-ethyl-1-butyl)-5-isopropyl-1,3-thiazolidin-4-one.

reactant | 2Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | 2-ethyl-1-butylamine | C(C)C(CN)CC | C6H15N
reactant | 2chloro-3-methylbutanoic acid | ClC(C(=O)O)C(C)C | C5H9ClO2
product | 2-(2-methyl-4-nitrophenylimino)-3-(2-ethyl-1-butyl)-5-isopropyl-1,3-thiazolidin-4-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(C(N1CC(CC)CC)=O)C(C)C | C19H27N3O3S
